US05939451
2.5 g (0.0069 mol) of N-[4-[3-(acetyl-methyl-amino)-phenylsulfamoyl]-phenyl]-acetamide were dissolved in 150 ml of 1N NaOH and boiled in reflux for 4 hours. Subsequently, the pH value was adjusted to 4 with 1N HCl and the precipitate which separated was filtered off. After drying the material on the suction filter was chromatographed on silica gel with 3% methanol with dichloromethane. There were obtained 1.64 g (85%) of 4-amino-N-(3-methylamino-phenyl)-benzenesulfonamide as a yellowish solid; m.p.: 134-135° C.

reactant | N-[4-[3-(acetyl-methyl-amino)-phenylsulfamoyl]-phenyl]-acetamide | 0.0069 mol, 2.5 g | C(C)(=O)N(C=1C=C(C=CC1)NS(=O)(=O)C1=CC=C(C=C1)NC(C)=O)C | C17H19N3O4S
reactant | HCl | 1N | Cl | ClH
solvent | NaOH | 1N, 150 ml | [OH-].[Na+]
product | 4-amino-N-(3-methylamino-phenyl)-benzenesulfonamide | 1.64 g, 85% | NC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)NC | C13H15N3O2S
